US07381746B2
234 mg of 3,4-dichlorobenzoyl chloride was added to 202 mg of (1R,2R,3R,5R,6R)-2-azido-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester dissolved in 3.7 mL of pyridine, and the mixture was stirred for 28 hours at room temperature, under a nitrogen atmosphere. After 100 mL of ethyl acetate was added to the reaction solution, this ethyl acetate solution was washed with a saturated aqueous solution of copper sulfate and with water, and then dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel: Wako gel C200, eluent: hexane-ethyl acetate=10:1), thereby yielding 298 mg of (1R,2R,3R,5R,6R)-2-azido-3-(3,4-dichlorobenzoyloxy)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester.

reactant | 3,4-dichlorobenzoyl chloride | 234 mg | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | (1R,2R,3R,5R,6R)-2-azido-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 202 mg | C(C)OC(=O)[C@]1([C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])O)F | C17H18FN3O5
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 3.7 mL | N1=CC=CC=C1 | C5H5N
product | (1R,2R,3R,5R,6R)-2-azido-3-(3,4-dichlorobenzoyloxy)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 298 mg | C(C)OC(=O)[C@]1([C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])OC(C1=CC(=C(C=C1)Cl)Cl)=O)F | C24H20Cl2FN3O6
